US04018802
Step C. Preparation of ethyl 8-(2-chloroethylsulfonyl)-12-acetoxyheptadecanoate
A solution of ethyl 8-(2-chloroethylthio)-12-acetoxyheptadecanoate (45.1 g., 0.1 mole) and 30% aqueous hydrogen peroxide (50 ml.) in acetic acid (225 ml.) is allowed to stand 20 hours at 25° C. The solution is diluted with 600 ml. of water. The oily product is taken up in ether, washed with dilute sodium bicarbonate solution and four portions of water and dried over sodium sulfate. Evaporation of the ether in vacuo leaves the title compound as a light yellow viscous oil.

reactant | ethyl 8-(2-chloroethylthio)-12-acetoxyheptadecanoate | 0.1 mole, 45.1 g | ClCCSC(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H43ClO4S
reactant | hydrogen peroxide | 50 ml | OO | H2O2
reactant | water | O | H2O
reactant | acetic acid | 225 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | ethyl 8-(2-chloroethylsulfonyl)-12-acetoxyheptadecanoate | ClCCS(=O)(=O)C(CCCCCCC(=O)OCC)CCCC(CCCCC)OC(C)=O | C23H43ClO6S
